US09353107B2
Step-iii: N-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-((3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino piperidine-1-carboxylate (80 mg, 0.134 mmol) was deprotected in HCl in methanol (5 ml). This afforded 16 mg (20.4% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.8-8.6 (bs, 1H), 8.37 (s, 1H), 7.67 (s, 1H), 7.41-7.35 (m, 2H), 7.12-7.10 (m, 2H), 7.06-7.04 (m, 2H), 6.94-6.90 (m, 2H), 5.41 (s, 2H), 3.85-3.70 (m, 1H), 3.50-3.47 (m, 2H), 3.18-3.12 (t, 2H), 2.29-2.24 (m, 8H), 1.79-1.76 (m, 2H). MS: m/z=495.3 (M+1), HPLC: 85.03% in method A.

reactant | (3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)amino piperidine-1-carboxylate | 0.134 mmol, 80 mg | N1(CCCCC1)C(=O)ONC1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C | C31H31FN6O2
solvent | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine | 16 mg, 20.4% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NC3CCNCC3)C)C=CC1 | C30H31FN6
